US06867218B2
(E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(3′-methoxy-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate
The title compound (280 mg, 59%) was prepared as a colourless solid from (E)-3-(3′-methoxy-biphenyl-4-yl)-but-2-en-1-ol (254 mg, 1.00 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (250 mg, 1.05 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(3′-methoxy-biphenyl-4-yl)-but-2-en-1-ol | 1.00 mmol, 254 mg | COC=1C=C(C=CC1)C1=CC=C(C=C1)/C(=C/CO)/C | C17H18O2
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 1.05 mmol, 250 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-{4-[3-(3′-methoxy-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-propionate | 280 mg, 59% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C(/C)\C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C30H34O5
